US09255110B2
A mixture of 2-methoxy-1,3-dinitro-benzene (1.49 g) and palladium on carbon (10%, 150 mg) in ethanol (75 mL) was stirred under hydrogen atmosphere (1 atm.) overnight. The catalyst was filtered off on a CELITE™ pad and the filter cake was washed with ethanol. The filtrate was evaporated under reduced pressure to afford 1.1 g of 2-methoxy-benzene-1,3-diamine as a light yellow solid without further purifications.

reactant | 2-methoxy-1,3-dinitro-benzene | 1.49 g | COC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C7H6N2O5
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-methoxy-benzene-1,3-diamine | 1.1 g | COC1=C(C=CC=C1N)N | C7H10N2O
